US08710043B2
Step 1. (S,E)-2-Methyl-N-((3-methylpyridin-2-yl)methylene)propane-2-sulfinamide
To a solution of 3-methyl-2-pyridinecarboxaldehyde (3.243 g, 26.8 mmol) in DCM (18 mL) was added (S)-2-methylpropane-2-sulfinamide (6.55 g, 54.0 mmol) and copper(II) sulfate (8.72 g, 54.6 mmol). The suspension was stirred at rt for 17 hours, filtered, and the solid was washed with DCM (2×35 mL). The filtrates were concentrated, and the resulting product was purified by silica gel flash column chromatography (using a 80G ISCO cartridge) and eluted using DCM/MeOH gradient to yield the desired product (S,E)-2-methyl-N-((3-methylpyridin-2-yl)methylene)propane-2-sulfinamide as a yellow solid.

reactant | 3-methyl-2-pyridinecarboxaldehyde | 26.8 mmol, 3.243 g | CC=1C(=NC=CC1)C=O | C7H7NO
reactant | (S)-2-methylpropane-2-sulfinamide | 54.0 mmol, 6.55 g | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | DCM | 18 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(II) sulfate | 54.6 mmol, 8.72 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | (S,E)-2-methyl-N-((3-methylpyridin-2-yl)methylene)propane-2-sulfinamide | CC(C)(C)[S@](=O)/N=C/C1=NC=CC=C1C | C11H16N2OS
